US04656290
Preparation of p-nitro-acetophenone
One proceeds according to Example 14 but bromomethyl-p-nitro-phenyl-ketone is used as starting material in the place of α-bromo-α-phenyl-acetaldehyde. The reaction mixture is not worked up by the extraction method according to Example 14 but by precipitating the product with 50 ml of water, filtering off the same and washing it three times with 20 ml of water each. Thus 16.1 g of the desired compound are obtained, yield 98%.

reactant | bromomethyl-p-nitro-phenyl-ketone | BrCC1=C(C=CC(=C1)[N+](=O)[O-])C(=O)C1=C(C=C(C=C1)[N+](=O)[O-])CBr | C15H10Br2N2O5
reactant | α-bromo-α-phenyl-acetaldehyde | BrC(C=O)C1=CC=CC=C1 | C8H7BrO
product | p-nitro-acetophenone | 16.1 g, yield 98% | [N+](=O)([O-])C1=CC=C(C=C1)C(C)=O | C8H7NO3
